US05512563
1,2,3,4-Tetrahydro-1-(4-nitrobenzoyl)-5H-1-benzazepine
To a solution of 5.0 g of 1,2,3,4-tetrahydro-5H-1-benzazepine and 5.91 ml of triethylamine in 50 ml of dichloromethane, chilled in an ice bath, is added, dropwise, 6.32 g of 4-nitrobenzoyl chloride in 75 ml of dichloromethane. The mixture is stirred at 0° C. for 1.5 hr and then at room temperature for 18 hours. The mixture is washed with H2O, 2M HCl, 1M NaOH and dried (Na2SO4). The solvent is removed and the residue recrystallized from ethanol with the aid of activated carbon to give 7.75 g of light yellow crystals, m.p. 148.5°-150.5° C.

reactant | 1,2,3,4-tetrahydro-5H-1-benzazepine | 5.0 g | N1CCCCC2=C1C=CC=C2 | C10H13N
reactant | triethylamine | 5.91 ml | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzoyl chloride | 6.32 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 1,2,3,4-Tetrahydro-1-(4-nitrobenzoyl)-5H-1-benzazepine | 7.75 g | [N+](=O)([O-])C1=CC=C(C(=O)N2CCCCC3=C2C=CC=C3)C=C1 | C17H16N2O3
